US06689922B1
(E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-4-en-3-ol
In a manner similar to Example 53(e), by treating 63 mg (0.14 mmol) of dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-3-enyl)phenoxymethyl]phthalate (prepared in a manner similar to Example 70) with 10 mg (0.4 mmol) of lithium borohydride, a colourless oil is obtained (m=54 mg; Y=97%).

reactant | dimethyl 4-[3-((E)-5-ethyl-5-hydroxy-1-methylhept-3-enyl)phenoxymethyl]phthalate | 0.14 mmol, 63 mg | C(C)C(/C=C/CC(C)C=1C=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=CC1)(CC)O | C27H34O6
reactant | lithium borohydride | 0.4 mmol, 10 mg | [BH4-].[Li+]
product | (E)-7-[3-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyloct-4-en-3-ol | OCC=1C=C(COC=2C=C(C=CC2)C(C/C=C/C(CC)(O)CC)C)C=CC1CO | C25H34O4
